US06429214B1
[7-(4-tert-Butoxycarbonylamino-butoxy)-2-oxo-1,2-dihydro-quinolin-3-yl]-acetic acid methyl ester
The title compound is prepared according to the procedure of Example 75 except that (4-bromobutyl)-carbamic acid tert-butyl ester is used in place of (3-bromopropyl)-carbamic acid tert-butyl ester and that (7-hydroxy-2-oxo-1,2-dihydro-quinolin-3-yl)-acetic acid methyl ester is used in place of (7-hydroxy-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl)-acetic acid methyl ester.

reactant | (4-bromobutyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCCBr)=O | C9H18BrNO2
reactant | (7-hydroxy-2-oxo-1,2-dihydro-quinolin-3-yl)-acetic acid methyl ester | COC(CC=1C(NC2=CC(=CC=C2C1)O)=O)=O | C12H11NO4
product | [7-(4-tert-Butoxycarbonylamino-butoxy)-2-oxo-1,2-dihydro-quinolin-3-yl]-acetic acid methyl ester | COC(CC=1C(NC2=CC(=CC=C2C1)OCCCCNC(=O)OC(C)(C)C)=O)=O | C21H28N2O6
